US06090836
Step D: Preparation of 3-chloro-4-(3-(2-propyl-3-trifluoromethyl-6-benz-[4,5]-isoxazoloxy)propylthio)phenylacetic acid
A solution of methyl 3-chloro-4-(3-(2-propyl-3-trifluoromethyl-6-benz-[4,5]-isoxazoloxy)propylthio)phenylacetic acid (0.113 grams) in methanol (1.5 mL) was treated with a solution of lithium hydroxide in water (1.01 M; 0.362 mL). The reaction was refluxed 1 hour. The reaction mixture was partitioned between isopropyl acetate and 0.1N HCl. The organic was dried over magnesium sulfate, filtered and concentrated to a solid. The solid was suspended in methylene chloride/cyclohexane (1:1; 2 mL). The mixture was refluxed briefly and cooled to 0° C. The title compound was isolated by filtration.

reactant | methyl 3-chloro-4-(3-(2-propyl-3-trifluoromethyl-6-benz-[4,5]-isoxazoloxy)propylthio)phenylacetic acid | 0.113 grams | CC(C(=O)O)C1=CC(=C(C=C1)SCCCOC=1C=CC=2C(N(OC2C1)CCC)C(F)(F)F)Cl | C23H25ClF3NO4S
reactant | lithium hydroxide | [OH-].[Li+]
solvent | methanol | 1.5 mL | CO | CH4O
solvent | water | 1.01 M, 0.362 mL | O | H2O
product | 3-chloro-4-(3-(2-propyl-3-trifluoromethyl-6-benz-[4,5]-isoxazoloxy)propylthio)phenylacetic acid | ClC=1C=C(C=CC1SCCCOC=1C=CC=2C(N(OC2C1)CCC)C(F)(F)F)CC(=O)O | C22H23ClF3NO4S
